US07169928B2
2-Benzothiazolyl 3-piperidinopropyl ether
Sodium 3-piperidinopropanolate (5 mmol) and 5 mmol of 2-chlorobenzothiazole in 20 ml of dry tetrahydrofurane were refluxed for 12 hours. The suspension was filtered and the solvent evaporated under reduced pressure. The product was crystallized with oxalic acid from diethyl ether/ethanol.

reactant | Sodium 3-piperidinopropanolate | 5 mmol | N1(CCCCC1)CCC[O-].[Na+]
reactant | 2-chlorobenzothiazole | 5 mmol | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
solvent | tetrahydrofurane | 20 ml | O1CCCC1 | C4H8O
product | 2-Benzothiazolyl 3-piperidinopropyl ether | N1(CCCCC1)CCCOC=1SC2=C(N1)C=CC=C2 | C15H20N2OS
